US09120773B2
In a stream of argon, 1.26 g (5.13 mmol) of 1-pyreneboronic acid, 1.00 g (2.14 mmol) of 2-(3,5-dibromophenyl)-4,6-diphenyl-1,3,5-triazine and 60.1 mg (0.081 mmol) of dichlorobis(triphenylphosphine)palladium were suspended in 75 mL of tetrahydrofuran, and the temperature of the obtained suspension was elevated to 70° C. 4.01 mL (16.1 mmol) of an aqueous 4N NaOH solution was gradually added dropwise to the suspension, and the obtained mixture was distilled under reflux for 3 hours. The resultant reaction mixture was left to stand to room temperature, and then distilled under a reduced pressure to remove all volatile materials. Methanol was added to the concentrate, and the thus-deposited solid was collected by filtration. The thus-obtained crude product was recrystallized from o-xylene to give 1.23 g of the target 2-[3,5-di(1-pyrenyl)-phenyl]-4,6-diphenyl-1,3,5-triazine as grayish white solid (yield: 81%).

reactant | 1-pyreneboronic acid | 5.13 mmol, 1.26 g | C1(=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)B(O)O | C16H11BO2
reactant | 2-(3,5-dibromophenyl)-4,6-diphenyl-1,3,5-triazine | 2.14 mmol, 1.00 g | BrC=1C=C(C=C(C1)Br)C1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C21H13Br2N3
reactant | NaOH | 4N | [OH-].[Na+]
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
catalyst | dichlorobis(triphenylphosphine)palladium | 0.081 mmol, 60.1 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-[3,5-di(1-pyrenyl)-phenyl]-4,6-diphenyl-1,3,5-triazine | yield: 81% | C1(=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)C=3C=C(C=C(C3)C3=CC=C4C=CC2=CC=CC1=CC=C3C4=C21)C2=NC(=NC(=N2)C2=CC=CC=C2)C2=CC=CC=C2 | C53H31N3
